US07589232B2
Step b) Formation of N-{4-[(4-chlorophenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)propanamide
The titled compound was prepared following the procedure B using 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one and 3-cyclopentylpropanoyl chloride as a white foam (80%). 1H NMR (CDCl3, 300 MHz) δ 7.67 (m, 1H), 7.42 (m, 4H), 7.31 (m, 2H), 7.17 (d, J=7.9 Hz, 2H), 7.06 (m, 1H), 6.89 (d, J=8.7 Hz, 1H), 4.86 (s, 2H), 2.06 (m, 2H), 1.73 (s, 6H), 1.66-1.39 (m, 9H), 0.95 (m, 2H). M+ (ESI): 542.1. HPLC, Rt: 5.83 min (Purity: 97.3%).

reactant | 6-({4-[(4-chlorophenyl)ethynyl]benzyl}amino)-2,2-dimethyl-4H-1,3-benzodioxin-4-one | ClC1=CC=C(C=C1)C#CC1=CC=C(CNC2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C25H20ClNO3
reactant | 3-cyclopentylpropanoyl chloride | C1(CCCC1)CCC(=O)Cl | C8H13ClO
product | N-{4-[(4-chlorophenyl)ethynyl]benzyl}-3-cyclopentyl-N-(2,2-dimethyl-4-oxo-4H-1,3-benzodioxin-6-yl)propanamide | ClC1=CC=C(C=C1)C#CC1=CC=C(CN(C(CCC2CCCC2)=O)C2=CC3=C(OC(OC3=O)(C)C)C=C2)C=C1 | C33H32ClNO4
